US07064123B1
To a stirred mixture of 4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid (177 mg, 0.5 mmol), 2-amino-1-(5-phenyl-[1,3,4]oxadiazol-2-yl)-1-butanol TFA salt (175 mg), prepared as in reference 16, and HOBt (92 mg, 0.6 mmol) in MeCl2 (5 ml), was added EDC (144 mg, 0.75 mmol) and N-methylmorpholine (0.35 ml) at room temperature. After stirring for 14 hours, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated NaHCO3, brine, dried with MgSO4 and concentrated to yield 308 mg of N-{1-[Hydroxy-(5-phenyl-[1,3,4]oxadiazol-2-yl)-methyl]-propyl}-4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyramide. Without further purification, the crude product was used for next reaction; MS: 569.6(M−1), 571.4(M+1).

reactant | 4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid | 0.5 mmol, 177 mg | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C16H21NO6S
reactant | 2-amino-1-(5-phenyl-[1,3,4]oxadiazol-2-yl)-1-butanol TFA salt | 175 mg | OC(=O)C(F)(F)F.NC(C(O)C=1OC(=NN1)C1=CC=CC=C1)CC
reactant | HOBt | 0.6 mmol, 92 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.75 mmol, 144 mg
reactant | N-methylmorpholine | 0.35 ml | CN1CCOCC1 | C5H11NO
solvent | MeCl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-{1-[Hydroxy-(5-phenyl-[1,3,4]oxadiazol-2-yl)-methyl]-propyl}-4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyramide | 308 mg | OC(C(CC)NC(C(CC(=O)N1CCOCC1)CS(=O)(=O)CC1=CC=CC=C1)=O)C=1OC(=NN1)C1=CC=CC=C1 | C28H34N4O7S
